US04419352
(a) Ethyl 7-amino-4-oxo-4H-1-benzopyran-2-carboxylate
A solution of sodium metal, (18.4 g, 0.8 gatom), in dry ethanol (1200 ml), was treated with N-(4-acetyl-3-hydroxyphenyl)acetamide (30.88 g, 0.16 mole). This mixture was stirred for 15 mins then diethyl oxalate (58.4 g, 54.3 ml, 0.4 mole), was added dropwise over 30 mins. The resulting mixture was heated and stirred at 60° C. for 2 hrs, allowed to cool and poured into a mixture of chloroform (600 ml), conc HCl (85 ml), and water (2000 ml). The organic layer was isolated and combined with a chloroform wash of the aqueous layer. The combined chloroform extracts were washed well with water then evaporated to dryness. The residue was taken into ethanol (400 ml), and conc.HCl (10 ml), was also added. The solution was heated at reflux for 30 minutes then evaporated to dryness. The residue was treated with ether and ethanol was added dropwise until the residue began to solidify. Insoluble material was filtered off, washed again with ether and the required sub-title product was recovered as a brown solid (20.5 g), (55%), mp 192°-194°. NMR and mass spectra confirmed the structure.

reactant | sodium | 18.4 g | [Na] | Na
reactant | N-(4-acetyl-3-hydroxyphenyl)acetamide | 0.16 mole, 30.88 g | C(C)(=O)C1=C(C=C(C=C1)NC(C)=O)O | C10H11NO3
reactant | diethyl oxalate | 0.4 mole, 54.3 ml, 58.4 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | HCl | 85 ml | Cl | ClH
solvent | ethanol | 1200 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 2000 ml | O | H2O
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 7-amino-4-oxo-4H-1-benzopyran-2-carboxylate | NC1=CC2=C(C(C=C(O2)C(=O)OCC)=O)C=C1 | C12H11NO4
